US07700634B2
To a solution of N-[(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-2-oxo-ethyl]-oxalamic acid methyl ester (429 mg, 1.11 mmol) in chloroform (20 ml) was added phosphorus pentasulfide (538 mg, 1.21 mmol) and the reaction mixture heated at reflux for 3.5 h. The reaction mixture was cooled, poured into a separating funnel and washed with water and then brine. The organic layers were then dried over magnesium sulfate, filtered and the solvent removed in vacuo. The resulting solid was purified by flash column chromatography eluting with dichloromethane to give 5-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)thiazole-2-carboxylic acid methyl ester (418 mg, 1.09 mmol) as a brown solid.

reactant | N-[(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-2-oxo-ethyl]-oxalamic acid methyl ester | 1.11 mmol, 429 mg | COC(C(=O)NCC(=O)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1)=O | C21H26N2O5
reactant | phosphorus pentasulfide | 1.21 mmol, 538 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)thiazole-2-carboxylic acid methyl ester | 1.09 mmol, 418 mg | COC(=O)C=1SC(=CN1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C21H24N2O3S
